US07384952B2
To a solution of ethyl 4-benzylaminobenzoate (6.0 g) in methylene chloride (60 mL) is added dropwise chlorobutyryl chloride (3.95 mL) and N,N-diisopropylethylamine (6.14 mL) under ice-cooling, and the mixture is stirred for 12 hours. The reaction mixture is diluted with chloroform and thereto is added 10% HCl. The organic layer is separated, washed successively with water, a saturated sodium hydrogencarbonate solution, water, and saturated brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue is purified by flash column chromatography on silica gel (Solvent; n-hexane:ethyl acetate=4:1) to give ethyl 4-[N-benzyl-N-(4-chlorobutyryl)amino]benzoate (8.27 g, yield; quantitative) as an oil. MS (APCI) m/z; 360/362 [M+H]+

reactant | ethyl 4-benzylaminobenzoate | 6.0 g | C(C1=CC=CC=C1)NC1=CC=C(C(=O)OCC)C=C1 | C16H17NO2
reactant | chlorobutyryl chloride | 3.95 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | N,N-diisopropylethylamine | 6.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-[N-benzyl-N-(4-chlorobutyryl)amino]benzoate | 8.27 g | C(C1=CC=CC=C1)N(C(CCCCl)=O)C1=CC=C(C(=O)OCC)C=C1 | C20H22ClNO3
